US04440940
A mixture of 3.62 g. of 3-(allylamino)phenylacetic acid and 25 ml. of ethanol water (9:1) containing 0.400 g. of sodium hydroxide is stirred for 4 hours. The mixture is filtered and the residue washed with 10 ml. of ethanol-water (9:1) and dried in vacuo for 24 hours to yield sodium 3-(allylamino)phenylacetate as a white solid.

reactant | 3-(allylamino)phenylacetic acid | C(C=C)NC=1C=C(C=CC1)CC(=O)O | C11H13NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol water | O.C(C)O
product | sodium 3-(allylamino)phenylacetate | C(C=C)NC=1C=C(C=CC1)CC(=O)[O-].[Na+] | InChI=1S/C11H13NO2.Na/c1-2-6-12-10-5-3-4-9(7-10)8-11(13)14;/h2-5,7,12H,1,6,8H2,(H,13,14);/q;+1/p-1
